US07056918B2
(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile (11.5 g) was diluted with sulfuric acid:water (1:1, 25 mL) and was heated to 110° C. for 4 hour then cooled and extracted into ethyl acetate, dried over sodium sulfate and concentrated to give 11.99 g of (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetic acid.

reactant | (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile | 11.5 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CC#N)C)=O | C14H15N3O
reactant | sulfuric acid water | 25 mL | S(O)(O)(=O)=O.O
product | (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetic acid | 11.99 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CC(=O)O)C)=O | C14H16N2O3
